US07297704B2
Step 5: {[(3S)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl]methyl}amine
(3S)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxamide (34.7 g, 150 mmol), was dissolved in 1 L of dry THF, and to the solution were added 300 ml of 1N lithium aluminum hydride in THF. The resulting solution, turning into suspension, was refluxed at vigorous stirring for 1 hr, completion checked by HPLC. The resulting suspension was cooled to 0-5° C., and quenched very slowly with the saturated solution of sodium potassium tartrate (Rochelle salt). The temperature was initially kept below 15° C., then let up to the ambient; 125 ml of the salt solution were added, while the solids in the suspension became crystalline and easily filterable. The reaction mixture was filtered through paper, the filtrate dried over sodium sulfate, evaporated, crystallized from MTBE, dried in the oven to give 26.9 g (82%) of the title compound as white crystals, mp: 121-123° C.

reactant | (3S)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxamide | 150 mmol, 34.7 g | FC=1C=C2C=3C[C@H](CCC3NC2=CC1)C(=O)N | C13H13FN2O
reactant | lithium aluminum hydride | 1N, 300 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | {[(3S)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl]methyl}amine | 26.9 g, 82% | FC=1C=C2C=3C[C@H](CCC3NC2=CC1)CN | C13H15FN2
